US04096264
Portionwise, with cooling, 0.500 g. (0.0015 mole) of 2(methoxycarbonylamino)-6-(phenylsulfinyl) imidazo [1,2-a] pyridine is added to 5 ml. of a methylene chloride solution of trifluoroperacetic acid prepared from 415 μl. trifluoroacetic anhydride and 65 μl. of 90% hydrogen peroxide. The solution is heated at reflux for 20 hours. The cooled reaction mixture is washed with 10 ml. of a saturated aqueous sodium bicarbonate solution, the organic layer is separated and chromatographed on silica gel. Elution with 50% ethyl acetate-methylene chloride yields 2-(methoxycarbonylamino) 6-(phenylsulfonyl) imidazo [1,2-a] pyridine, m.p. 300° C.

reactant | 2(methoxycarbonylamino)-6-(phenylsulfinyl) imidazo [1,2-a] pyridine | 0.0015 mole | COC(=O)NC=1N=C2N(C=C(C=C2)S(=O)C2=CC=CC=C2)C1 | C15H13N3O3S
reactant | trifluoroperacetic acid | FC(C(=O)OO)(F)F | C2HF3O3
reactant | trifluoroacetic anhydride | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | hydrogen peroxide | OO | H2O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(methoxycarbonylamino) 6-(phenylsulfonyl) imidazo [1,2-a] pyridine | COC(=O)NC=1N=C2N(C=C(C=C2)S(=O)(=O)C2=CC=CC=C2)C1 | C15H13N3O4S
